US05328911
2-Cyclopropyl-3-{(2'-methoxycarbonylbiphenyl-4-yl)methyl}-7-methyl-3H-imidazo[4,5-b]pyridine
1.64 g of 2-cyclopropyl-7-methyl-3H-imidazo[4,5-b]pyridine dissolved in 30 ml of dimethylformamide was dropwise added to 400 mg of sodium hydride. The mixture was stirred at room temperature for 30 min, and 3.1 g of methyl 2-(4-bromomethylphenyl)benzoate dissolved in 20 ml of dimethylformamide was dropwise added thereto. The mixture was stirred for 10min and then cooled, and an aqueous ammonium chloride solution was added thereto. The mixture was extracted with ethyl acetate. The extract was washed thrice with water, dried over anhydrous magnesium sulfate and then concentrated. The residue was subjected to column chromatography (chloroform:ethanol=99:1). The first eluted isomer was the title compound (yield: 1.32 g) .

reactant | 2-cyclopropyl-7-methyl-3H-imidazo[4,5-b]pyridine | 1.64 g | C1(CC1)C1=NC=2C(=NC=CC2C)N1 | C10H11N3
reactant | sodium hydride | 400 mg | [H-].[Na+]
reactant | methyl 2-(4-bromomethylphenyl)benzoate | 3.1 g | BrCC1=CC=C(C=C1)C1=C(C(=O)OC)C=CC=C1 | C15H13BrO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 2-Cyclopropyl-3-{(2'-methoxycarbonylbiphenyl-4-yl)methyl}-7-methyl-3H-imidazo[4,5-b]pyridine | C1(CC1)C1=NC=2C(=NC=CC2C)N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C(=O)OC | C25H23N3O2
